US07220753B2
(7RS,9aSR)-7-(5-Fluoroindol-1-ylmethyl)-2-(pyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine
The title compound was synthesized according to Example 9 from (7RS,9aSR)-7-hydroxymethyl-2-(pyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (Preparation 3) and 5-fluoroindole. mp (.HCl) 70–72° C. HRMS calcd for C21H25FN5(MH+): 366.2094, found: 366.2104.

reactant | (7RS,9aSR)-7-hydroxymethyl-2-(pyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | OCC1CCC2N(CCN(C2)C2=NC=CC=N2)C1 | C13H20N4O
reactant | 5-fluoroindole | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | HCl | Cl | ClH
product | (7RS,9aSR)-7-(5-Fluoroindol-1-ylmethyl)-2-(pyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | FC=1C=C2C=CN(C2=CC1)CC1CCC2N(CCN(C2)C2=NC=CC=N2)C1 | C21H24FN5
